US06921763B2
Trans-3-(3-methoxy-4-[(5-methyl-2-furyl)methyl]aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine dimaleate
A mixture of the cis- or trans-3-(4-amino-phenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (either intermediate . . . or . . . ) (1 eq.), aldehyde (1 eq.), sodium triacetoxyborohydride (3.4 eq.) and acetic acid (3.4 eq) was stirred in anhydrous 1,2-dichloroethane for 16 hours. The reaction mixture was concentrated under reduced pressure, quenched with saturated solution of sodium bicarbonate in water and concentrated again. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield the desired products.

reactant | trans-3-(4-amino-phenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C22H30N8
reactant | sodium triacetoxyborohydride | 3.4 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 3.4 eq | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | Trans-3-(3-methoxy-4-[(5-methyl-2-furyl)methyl]aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine dimaleate | C(\C=C/C(=O)O)(=O)O.C(\C=C/C(=O)O)(=O)O.COC=1C=C(C=CC1NCC=1OC(=CC1)C)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C29H38N8O2.2C4H4O4/c1-19-4-10-23(39-19)17-31-24-11-5-20(16-25(24)38-3)27-26-28(30)32-18-33-29(26)37(34-27)22-8-6-21(7-9-22)36-14-12-35(2)13-15-36;2*5-3(6)1-2-4(7)8/h4-5,10-11,16,18,21-22,31H,6-9,12-15,17H2,1-3H3,(H2,30,32,33);2*1-2H,(H,5,6)(H,7,8)/b;2*2-1-/t21-,22-;;
